US05817693
a) Methyl(1RS,2RS,3RS)-3-(4-Methoxy-2-phenylphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate
To a slurry of anhydrous LiCl (46 mg, 1.1 mmol) and tetrakis(triphenylphosphine)palladium(0) (24 mg, 0.02 mmol) in dry dioxane (3 mL) was added a solution of Methyl(1RS,2RS,3RS)-3-(4-Methoxy-2-trifluoromethanesulfonyloxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (95 mg, 0.16 mmol) and tri(but-1-yl)stannylbenzene (319 mg, 0.87 mmol) in dioxane (1 mL). The mixture was refluxed under Argon for 17 h, cooled to room temperature, diluted with ethyl acetate (5 ml) and the resulting solution washed sequentially with brine and water. The organic layer was dried (MgSO4 anhydrous), filtered through a short pad of silica gel and concentrated in vacuo to yield an oil. The product was purified by flash column chromatography (silica gel, gradient elution from hexanes to 10% ethyl acetate/hexanes) to afford the title compound as a white solid. (92 mg, 86%).

reactant | LiCl | 1.1 mmol, 46 mg | [Li+].[Cl-]
reactant | Methyl(1RS,2RS,3RS)-3-(4-Methoxy-2-trifluoromethanesulfonyloxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 0.16 mmol, 95 mg | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC)OS(=O)(=O)C(F)(F)F | C29H27F3O9S
reactant | tri(but-1-yl)stannylbenzene | 0.87 mmol, 319 mg | C(CCC)[Sn](CCCC)(CCCC)C1=CC=CC=C1
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl(1RS,2RS,3RS)-3-(4-Methoxy-2-phenylphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC)C2=CC=CC=C2 | C34H32O6
